* Z:\mnt\design.r\spice\examples\3103.asc
V1 IN 0 12
C1 N001 0 1µ
C2 N002 N003 22n
R1 N001 N005 100K
L1 N003 OUT1 10µ
R2 OUT1 N004 1.78Meg
R3 N004 0 665K
C3 OUT1 N004 12p
C4 OUT1 0 47µ V=6.3 Irms=0 Rser=0.002 Lser=0 mfg="TDK" pn="C4532X5ROJ47@M" type="X5R"
Rload1 OUT1 0 7.3
XU1 IN N003 N002 0 N005 N001 IN N004 MP_01 IN LTC3103
.tran 2m startup
.lib LTC3103.sub
.backanno
.end
